US04587361
A mixture of 400 ml of ethyl ether containing 0.5 mole of 4-chlorophenylmagnesium bromide was added over 1 hour to a mixture of 13.5 g of 4-aminoacetophenone in 500 ml of ether under nitrogen. After heating at reflux for 3 hours, the cooled mixture was quenched with 250 ml of saturated ammonium chloride solution. The dried ethereal layer was evaporated. The residual oil was mixed with 250 ml of 3N hydrochloric acid. After heating on the steam bath for 3 hours, the cooled mixture was separated from a soft solid. The product was taken up in 100 ml of ethanol. Ether (600 ml) was added to give a solid, 14.3 g of 1-(4-aminophenyl)-1-phenylethylene hydrochloride, m.p. 181°-183°.

reactant | 4-chlorophenylmagnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | 4-aminoacetophenone | 13.5 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ethyl ether | 0.5 mole, 400 ml | C(C)OCC | C4H10O
product | 1-(4-aminophenyl)-1-phenylethylene hydrochloride | 14.3 g | Cl.NC1=CC=C(C=C1)C(=C)C1=CC=CC=C1 | InChI=1S/C14H13N.ClH/c1-11(12-5-3-2-4-6-12)13-7-9-14(15)10-8-13;/h2-10H,1,15H2;1H
